US05702887
treating 12-cyano-benz[b]acridine with tetrabutylammonium bromide and sulfuric acid, then with a sodium hydroxide solution followed by concentrated HCl to produce benz[b]acridine-12-carboxylic acid hydrochloride;

reactant | 12-cyano-benz[b]acridine | C(#N)C=1C=2C=CC=CC2N=C2C=C3C(=CC12)C=CC=C3 | C18H10N2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | HCl | Cl | ClH
catalyst | tetrabutylammonium bromide | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | benz[b]acridine-12-carboxylic acid hydrochloride | Cl.C1=CC=CC=2N=C3C=C4C(=CC3=C(C12)C(=O)O)C=CC=C4 | InChI=1S/C18H11NO2.ClH/c20-18(21)17-13-7-3-4-8-15(13)19-16-10-12-6-2-1-5-11(12)9-14(16)17;/h1-10H,(H,20,21);1H
